US08106064B2
Pyridazine-4-carboxylic acid ethyl ester:
In a 250 mL round bottom flask, 1 mL concentrated HCl and 70 mL ethanol was added to pyridazine-4-carboxylic acid (3.78 g, 30.4 mmol). The mixture was refluxed overnight. The reaction was 80% complete based on HPLC. The reaction mixture was concentrated down. The residue was purified (silica gel, 2-10% MeOH/DCM) to give light yellow oil (1.8 g, 49%). 1H NMR (300 MHz, CD3OD): δ 9.62 (s, 1H), 9.43 (d, 1H), 8.08 (d, 1H), 4.52 (dd, 2H), 1.43 (t, 3H).

reactant | HCl | 1 mL | Cl | ClH
reactant | pyridazine-4-carboxylic acid | 30.4 mmol, 3.78 g | N1=NC=C(C=C1)C(=O)O | C5H4N2O2
reactant | ethanol | 70 mL | C(C)O | C2H6O
product | Pyridazine-4-carboxylic acid ethyl ester | 1.8 g, 49% | C(C)OC(=O)C1=CN=NC=C1 | C7H8N2O2
